US07642361B2
4-Cyano-3-[4-(3-dimethylamino-thiophen-2-yl)-phenyl]-5-ethyl-thiophene-2-carboxylic acid ethyl ester
Prepare with procedure described in literature Sznaidman M. L.; Meade E. A.; Beauchamp, L. M.; Russell, R.; Tisdale, M., Bioorg. Med. Chem. Lett., 1996, 6, 5, 565-568. Stir at room temperature under nitrogen a mixture of 3-[4-(3-amino-thiophen-2-yl)-phenyl]-4-cyano-5-ethyl-thiophene-2-carboxylic acid ethyl ester (0.05 g, 0.131 mmol), paraformaldehyde (0.041 g, 1.31 mmol), sodium cyanoborohydride (0.026 g, 0.393 mmol) and acetic acid (0.02 mL, 0.262 mmol) in dry acetonitrile (1 mL). After 3 h add water and extract with ethyl acetate. Combine the organic layers, dry over sodium sulfate, filter and concentrate under reduced pressure to give a residue. Purify the residue by flash chromatography (silica gel) eluting with ethyl acetate:hexane 1:2 to provide the title compound (0.033 g, 61%). Mass spectrum (m/e): 411 (M+1). 1H-NMR (CDCl3) δ1.19 (t, 3H, J=7.2 Hz); 1.44 (t, 3H, J=7.5 Hz); 2.71 (s, 6H); 3.09 (c, 2H, J=7.5 Hz); 4.20 (c, 2H, J=7.2 Hz); 6.97 (d, 1H, J=5.4 Hz); 7.19 (d, 1H, J=5.6 Hz); 7.38-7.43 (m, 2H); 7.81-7.86 (m, 2H).

reactant | 3-[4-(3-amino-thiophen-2-yl)-phenyl]-4-cyano-5-ethyl-thiophene-2-carboxylic acid ethyl ester | 0.131 mmol, 0.05 g | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)C=1SC=CC1N)C#N)CC | C20H18N2O2S2
reactant | paraformaldehyde | 1.31 mmol, 0.041 g | C=O | CH2O
reactant | sodium cyanoborohydride | 0.393 mmol, 0.026 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 0.262 mmol, 0.02 mL | C(C)(=O)O | C2H4O2
reactant | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-Cyano-3-[4-(3-dimethylamino-thiophen-2-yl)-phenyl]-5-ethyl-thiophene-2-carboxylic acid ethyl ester | 0.033 g, 61% | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)C=1SC=CC1N(C)C)C#N)CC | C22H22N2O2S2
